US07741352B2
1-Methoxy-3-nonyl benzene
A solution of 1-methoxy-3-non-1-enyl benzene (7.4 g 32 mmol) in 99% EtOH (50 mL) was added 6 M HCl (aq.; 0.5 mL) and stirred with 10% Pd/C under H2-atmosphere (1 atm) to give 7.5 g (quantitative yield) of the desired product, after filtration through Celite and evaporation to dryness of the eluate.

reactant | 1-methoxy-3-non-1-enyl benzene | 32 mmol, 7.4 g | COC1=CC(=CC=C1)C=CCCCCCCC | C16H24O
reactant | HCl | 6 M, 0.5 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-Methoxy-3-nonyl benzene | 7.5 g, quantitative yield | COC1=CC(=CC=C1)CCCCCCCCC | C16H26O
